US07858647B2
1.1 g 4-[2-(5-Chloro-2-methoxy-benzoylamino)-ethyl]-benzenesulfonyl chloride, 483 mg 5-Cyclopropyl-[1,3,4]thiadiazol-2-ylamine and 35.0 mg 4-dimethylaminopyridine were dissolved in 5 ml pyridine and stirred under microwave irradiation at 115° C. for two hours. The pyridine was removed in vacuo and the residue coevaporated three times with portions of 20 ml toluene. The residue was purified by RP-HPLC to obtain 590 mg 5-Chloro-N-{2-[4-(5-cyclopropyl-[1,3,4]thiadiazol-2-ylsulfamoyl)-phenyl]-ethyl}-2-methoxy-benzamide.

reactant | 4-[2-(5-Chloro-2-methoxy-benzoylamino)-ethyl]-benzenesulfonyl chloride | 1.1 g | ClC=1C=CC(=C(C(=O)NCCC2=CC=C(C=C2)S(=O)(=O)Cl)C1)OC | C16H15Cl2NO4S
reactant | 5-Cyclopropyl-[1,3,4]thiadiazol-2-ylamine | 483 mg | C1(CC1)C1=NN=C(S1)N | C5H7N3S
catalyst | 4-dimethylaminopyridine | 35.0 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | 5-Chloro-N-{2-[4-(5-cyclopropyl-[1,3,4]thiadiazol-2-ylsulfamoyl)-phenyl]-ethyl}-2-methoxy-benzamide | 590 mg | ClC=1C=CC(=C(C(=O)NCCC2=CC=C(C=C2)S(NC=2SC(=NN2)C2CC2)(=O)=O)C1)OC | C21H21ClN4O4S2
